US06528505B1
Step A: Preparation of 1-(2-Aminophenyl)-1-butanone
A solution of anthranilonitrile (1 equiv., Aldrich) in diethyl ether (2.4 M) was cooled to 0° C. and treated with propylmagnesium chloride (2.5 equiv., Aldrich; 2.0 M in Et2O) in a dropwise manner over the course of an hour. After addition of 25% of the Grignard reagent, an additional 1/10 volume of Et2O was added. The cooling bath was removed and stirring of the suspension continued for 5 hours. The reaction was returned to 0° C. and cautiously quenched with 3 N HCl. The cooling bath was removed and stirring continued for 30 minutes. The mixture was made basic by the addition of solid NaOH. The contents were extracted thrice with ethyl acetate; brine was added to help break up the suspension. The combined extracts were washed with brine, dried over Na2SO4, filtered, and concentrated. The crude residue was chromatographed eluting with 95:5 hexanes/ethyl acetate.

reactant | anthranilonitrile | 1 equiv. | C(C=1C(N)=CC=CC1)#N | C7H6N2
reactant | propylmagnesium chloride | 2.0 M, 2.5 equiv. | C(CC)[Mg]Cl
reactant | diethyl ether | 2.4 M | C(C)OCC | C4H10O
reactant | Et2O | CCOCC | C4H10O
product | 1-(2-Aminophenyl)-1-butanone | NC1=C(C=CC=C1)C(CCC)=O | C10H13NO
